US07592457B2
2-[2-(4-bromo-phenyl)-propionylamino]-4,6-dichlorobenzoic acid methyl ester
The objective compound was prepared by the same procedure for the intermediate 1, using a 2-(4-bromo-phenyl)-propionic acid (11.7 g, 48.3 mmol), SOCl2 (35.0 mL, 480 mmol), and 2-amino-4,6-dichloro-benzoic acid methyl ester (10.1 g, 45.9 mmol). After normal workup, the pure objective compound (9.31 g, 55%) was obtained as white solid by a flash column chromatography (n-hexane:EtOAc=10:1): 1H NMR (200 MHz, CDCl3) δ 1.58 (d, J=7.1 Hz, 3H, CH3), 3.75 (q, J=7.1 Hz, 1H, CH), 3.81 (s, 3H, CO2CH3), 7.15 (d, J=2.0 Hz, 1H, ArH), 7.20-7.53 (m, 4H, ArH), 8.41 (d, J=1.7 Hz, 1H, ArH), 9.16 (br s, 1H, NH).

reactant | 2-(4-bromo-phenyl)-propionic acid | 48.3 mmol, 11.7 g | BrC1=CC=C(C=C1)C(C(=O)O)C | C9H9BrO2
reactant | SOCl2 | 480 mmol, 35.0 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-amino-4,6-dichloro-benzoic acid methyl ester | 45.9 mmol, 10.1 g | COC(C1=C(C=C(C=C1Cl)Cl)N)=O | C8H7Cl2NO2
reactant | n-hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[2-(4-bromo-phenyl)-propionylamino]-4,6-dichlorobenzoic acid methyl ester | 9.31 g, 55% | COC(C1=C(C=C(C=C1Cl)Cl)NC(C(C)C1=CC=C(C=C1)Br)=O)=O | C17H14BrCl2NO3
